Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ year old female w/out cardiac hx or risk factors
presenting with palpitations associated with 'chest discomfort'
for approximately 9 days. Pt states she was in usual state of
health until ___ days before ___ at which time she began
developing intermittent palpitations. Describes as feeling that
she could "feel my heart beating". Last ___ minutes and then
resolved. No obvious precipitating factors, often occur at rest.
Associated with what patient describes as "chest discomfort"
which localized diffusely across the chest with radiation to the
jaw. Additionally, had mild dyspnea on exertion and orthopnea
with symptoms. Patient denies fevers, chills, chest pain, 
nausea,
vomiting, diarrhea, myalgias, sore throat, nasal congestion. No
sick contacts. Denies recreational drugs or tobacco use. Recent
travel outside the ___ to ___ 2 months ago and ___
approximately ___ year prior. 

Pt became increasingly concerned about symptoms and decided to
present to ___ ED for further management
 
Past Medical History:
 Borderline hyperlipidemia (not on medication at home)
- Hx of nephrolithiasis
 
Social History:
___
Family History:
Grandmother had CHF, mother had kidney failure unspecified,
father had diabetes)
 
Physical Exam:
ADMISSION EXAM:
VS: BP: 123/78; HR: 80; RR:20; O2 Sat: 99 
GENERAL: Comfortable, no apparent distress
NECK: Supple. JVP of 10 cm  
CARDIAC:Normal S1, S2. No murmur, positive friction rub
LUNGS: Respiration is unlabored with no accessory muscle use.
CTAB No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No rashes.  
PULSES: Radial and DP 2+ pulses  

DISCHARGE EXAM:
___ 1100 Temp: 98.4 PO BP: 93/63 L Lying HR: 74 RR: 18 
O2
sat: 98% O2 delivery: Ra 
GENERAL: Comfortable, no apparent distress
NECK: Supple. JVP of 10 cm  
CARDIAC: Normal S1, S2. No murmur, rub could not be auscultated  

LUNGS: Respiration is unlabored with no accessory muscle use.
CTAB No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No rashes.  
PULSES: Radial and DP 2+ pulses
 
Pertinent Results:
ADMISSION RESULTS:

___ 08:03AM BLOOD WBC-6.2 RBC-4.54 Hgb-13.6 Hct-40.7 MCV-90 
MCH-30.0 MCHC-33.4 RDW-12.3 RDWSD-40.7 Plt ___
___ 08:03AM BLOOD Glucose-98 UreaN-12 Creat-0.8 Na-142 
K-4.3 Cl-108 HCO3-22 AnGap-12

DISCHARGE RESULTS:

___ 08:03AM BLOOD WBC-6.2 RBC-4.54 Hgb-13.6 Hct-40.7 MCV-90 
MCH-30.0 MCHC-33.4 RDW-12.3 RDWSD-40.7 Plt ___
___ 08:03AM BLOOD Glucose-98 UreaN-12 Creat-0.8 Na-142 
K-4.3 Cl-108 HCO3-22 AnGap-___ year old female w/ no significant past medical hx presenting 
w/ palpitations and chest discomfort with diffuse concave ST 
elevations/PR depressions and negative troponins overall 
concerning for pericarditis. 

TRANSITIONAL ISSUES:
======================
[] Consider event monitor to further elucidate etiology of 
palpitations.
[] Continue treatment of presumed pericarditis with 3 months of 
colchicine therapy.
[] Consider autoimmune evaluation given idiopathic nature of 
pericarditis and history of "very severe conjunctivitis" in 
___.
[] Discharged with script for ibuprofen for symptomatic relief 
and pantoprazole for GI prophylaxis. Please discontinue 
pantoprazole when patient is no longer taking NSAIDs.

ACUTE ISSUES:
===============
# Presumed pericarditis
Patient presenting with 8 days of chest discomfort and 
palpitations with ECG showing diffuse ST segment elevations/PR 
depressions. Troponins negative. Friction rub appreciated on 
auscultation. Unclear etiology given lack of viral prodrome, 
other systemic symptoms to suggest malignancy. The differential 
would also include autoimmune etiologies, which can be further 
evaluated as an outpatient. Of note, she relays a history of 
"very severe conjunctivitis" in ___ that was evaluated 
by a doctor in ___, which could be consistent with 
episcleritis and point to a potential autoimmune etiology. She 
underwent TTE that showed normal biventricular function and did 
not show pericardial effusion. She was treated with colchicine 
and offered ibuprofen for symptomatic relief, though did not 
need it while hospitalized.

CHRONIC ISSUES:
=================
-None

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Colchicine 0.6 mg PO QPM 
RX *colchicine 0.6 mg 1 tablet(s) by mouth qPM Disp #*90 Tablet 
Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*25 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Pericarditis
Palpitations
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from ___.

WHY WERE YOU ADMITTED?
- You were admitted because you had chest discomfort and the 
feeling of a fast heart rate (palpitations).

WHAT DID WE DO WHILE YOU WERE ADMITTED?
- We did many tests, which showed that you might have swelling 
of the area around your heart that could cause these symptoms.
- We treated you with new medications to fix the swelling.

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed.
- Follow up with your doctors, as listed in this packet.
 
Followup Instructions:
___